US05006515
Methyl 3-benzyl-2-isoxazolin-5-yl(P-methyl)phosphinate
Preparation is carried out in analogy to Example 23 from 37.1 ml (0.34 mol) of phenyl isocyanate, 22.5 g (0.187 mol) of methyl vinyl(P-methyl)phosphinate, 4 ml of triethylamine and 25.7 g (0.17 mol) of 2-phenylnitroethane in toluene, resulting in 34 g of brown oil.

reactant | phenyl isocyanate | 0.34 mol, 37.1 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | methyl vinyl(P-methyl)phosphinate | 0.187 mol, 22.5 g | C(=C)P(OC)(=O)C | C4H9O2P
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-phenylnitroethane | 0.17 mol, 25.7 g | C1(=CC=CC=C1)CC[N+](=O)[O-] | C8H9NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-benzyl-2-isoxazolin-5-yl(P-methyl)phosphinate | 34 g | C(C1=CC=CC=C1)C1=NOC(C1)P(OC)(=O)C | C12H16NO3P
